US05800733
A mixture of 10.0 g of 4-(5-benzyloxypyrimidin-2-yl)benzaldehyde, 0.2 g of sodium carbonate and 250 ml of ethyl acetate was treated with 1.0 g of palladium on active charcoal (10%) and hydrogenated at normal pressure and room temperature until the hydrogen uptake came to a standstill. The inorganic material was filtered off over Sillit and the filtrate was concentrated. Recrystallization of the crude product from hexane gave 6.1 g of pure 4-(5-hydroxypyrimidin-2-yl)benzaldehyde.

reactant | 4-(5-benzyloxypyrimidin-2-yl)benzaldehyde | 10.0 g | C(C1=CC=CC=C1)OC=1C=NC(=NC1)C1=CC=C(C=O)C=C1 | C18H14N2O2
reactant | sodium carbonate | 0.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | charcoal | C | CH4
reactant | hydrogen | [H][H] | H2
catalyst | palladium | 1.0 g | [Pd] | Pd
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 4-(5-hydroxypyrimidin-2-yl)benzaldehyde | 6.1 g | OC=1C=NC(=NC1)C1=CC=C(C=O)C=C1 | C11H8N2O2
